US09376443B2
1-(6-Bromomethylpyridin-2-yl)pyrrolidin-2-one
A stirred solution of 1-(6-hydroxymethylpyridin-2-yl)pyrrolidin-2-one (10.19 g, 53.01 mmol), in dichloromethane (600 mL), was treated with triphenylphosphine (15.29 g, 58.31 mmol) followed by carbon tetrabromide (15.66 g, 58.31 mmol), stirred for 1 h, concentrated in vacuo and purified by column chromatography (SiO2; EtOAc:hexane (1:1)) to give the title compound (10.19 g) as a white solid also containing triphenylphosphine oxide as an impurity; NMR δH (400 MHz, d6-DMSO) inter alia 8.22 (1H, d, J 8.5 Hz), 7.81 (1H, t, J 7.5 Hz), 7.28 (1H, d, J 7.5 Hz), 4.63 (2H, s), 3.98 (2H, t, J 7.0 Hz), 2.58 (2H, t, J 8.0 Hz) and 2.08-2.00 (2H, m); (M+H)+ 255, 257.

reactant | 1-(6-hydroxymethylpyridin-2-yl)pyrrolidin-2-one | 53.01 mmol, 10.19 g | OCC1=CC=CC(=N1)N1C(CCC1)=O | C10H12N2O2
reactant | triphenylphosphine | 58.31 mmol, 15.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 58.31 mmol, 15.66 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | 1-(6-Bromomethylpyridin-2-yl)pyrrolidin-2-one | 10.19 g | BrCC1=CC=CC(=N1)N1C(CCC1)=O | C10H11BrN2O
